US06710068B2
Synthesis of Ethyl 5-chloro-3-(3,5-dimethylphenylthio)-6-fluoroindole-2-carboxylate (3f)
Boron trifluoride ethyl etherate (0.135 g, 0.12 mL, 0.001 mol) was added to a mixture of ethyl 5-chloro-6-fluoroindole-2-carboxylate (0.75 g, 0.0031 mol), N-(3,5-dimethylphenylthio)-succinimide (0.78 g, 0.0033 mol) and anhydrous dichloromethane (20 mL) under dry argon atmosphere. After stirring at room temperature for 2 hours was added boron trifluoride ethyl etherate (0.27 g, 0.24 mL, 0.002 mol) and then reaction was heated at 45° C. for 2 hours. After cooling reaction was diluted chloroform and brine while shaking. Organic layer was separated, washed with saturated solution of sodium hydrogen carbonate, then with brine and dried. The solvent was evaporated to give 1.2 g (100%) of satisfactory pure title compound, mp 170-173° C. (from ethanol).

reactant | Boron trifluoride ethyl etherate | 0.001 mol, 0.12 mL, 0.135 g | B(F)(F)F.CCOCC
reactant | ethyl 5-chloro-6-fluoroindole-2-carboxylate | 0.0031 mol, 0.75 g | ClC=1C=C2C=C(NC2=CC1F)C(=O)OCC | C11H9ClFNO2
reactant | N-(3,5-dimethylphenylthio)-succinimide | 0.0033 mol, 0.78 g | CC=1C=C(C=C(C1)C)SN1C(CCC1=O)=O | C12H13NO2S
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
reactant | boron trifluoride ethyl etherate | 0.002 mol, 0.24 mL, 0.27 g | B(F)(F)F.CCOCC
solvent | brine | [Cl-].[Na+].O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 5-chloro-3-(3,5-dimethylphenylthio)-6-fluoroindole-2-carboxylate | 1.2 g, 100% | ClC=1C=C2C(=C(NC2=CC1F)C(=O)OCC)SC1=CC(=CC(=C1)C)C | C19H17ClFNO2S
